US06133266
4'-Benzyloxy-3'-(2-benzyloxyethyl)acetophenone (8.0 g) and 0.4 ml of 30% hydrogen bromide acetic acid solution were dissolved in 80 ml of chloroform, and a solution of 1.1 ml of bromine in 30 ml of chloroform was added to the solution dropwise during 2 hours with stirring at room temperature. The reaction solution was concentrated under reduced pressure and the resulting residue was purified by silica gel medium pressure liquid column chromatography (eluent: hexane/diethyl ether=2/1) to give 3.9 g of 4'-benzyloxy-3'-(2-benzyloxyethyl)-2-bromoacetophenone having a melting point of 53 to 56° C.

reactant | 4'-Benzyloxy-3'-(2-benzyloxyethyl)acetophenone | 8.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)CCOCC1=CC=CC=C1 | C24H24O3
reactant | hydrogen bromide acetic acid | 0.4 ml | C(C)(=O)O.Br
reactant | bromine | 1.1 ml | BrBr | Br2
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4'-benzyloxy-3'-(2-benzyloxyethyl)-2-bromoacetophenone | 3.9 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CBr)=O)CCOCC1=CC=CC=C1 | C24H23BrO3
